US08802679B2
To a solution of tert-butyl {2-[(3-bromobenzyl)amino]-2-oxoethyl}carbamate (1.0 g) and bis(pinacolato)diboron (777 mg) in dioxane (15 ml) were added potassium acetate (858 mg) and dichlorobis(triphenylphosphine)palladium(II) (102 mg), followed by stirring at 80° C. overnight. The reaction mixture was filtrated and the solvent was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/EtOAc=10/1 to 1/9) to obtain tert-butyl (2-oxo-2-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl]amino}ethyl)carbamate (1.06 g) as a colorless oil.

reactant | tert-butyl {2-[(3-bromobenzyl)amino]-2-oxoethyl}carbamate | 1.0 g | BrC=1C=C(CNC(CNC(OC(C)(C)C)=O)=O)C=CC1 | C14H19BrN2O3
reactant | bis(pinacolato)diboron | 777 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 858 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 102 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl (2-oxo-2-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl]amino}ethyl)carbamate | 1.06 g | O=C(CNC(OC(C)(C)C)=O)NCC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C20H31BN2O5
